US04196274
93 g of aniline are added dropwise with cooling at approximately 30° C. to a solution of 98 g of maleic acid anhydride in 300 g of N-methyl pyrrolidone. To complete the formation of the amido acid, the mixture is then stirred for 1 hour at the above-mentioned temperature. 238 g of phenyl isocyanate are then added dropwise at 20° C. and the condensation reaction is carried out with stirring for 1 hour at 50° C., for 2 hours at 90° C., for 2 hours at 120° C. and for 6 hours at 150° C. The reaction product crystallises out on cooling and is recrystallised from acetonitrile and from metahnol. 1,3-Diphenyl-5-(N-phenylaminocarbonylmethyl)-hydantoin is obtained in the form of colourless crystals melting at 214° to 215° C.

reactant | aniline | 93 g | NC1=CC=CC=C1 | C6H7N
reactant | maleic acid anhydride | 98 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | phenyl isocyanate | 238 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | N-methyl pyrrolidone | 300 g | CN1C(CCC1)=O | C5H9NO
product | 1,3-Diphenyl-5-(N-phenylaminocarbonylmethyl)-hydantoin | C1(=CC=CC=C1)N1C(=O)N(C(=O)C1CC(=O)NC1=CC=CC=C1)C1=CC=CC=C1 | C23H19N3O3
